### ISSUE TITLE
Gallery integrity: erdos-36 axioms are INCONSISTENT (asymptotic bounds stated ∀N≥1 contradict proven small values → kernel False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41134]
## Integrity Issue — CRITICAL (inconsistent axioms)

**Proof**: erdos-36 (`Proofs/Erdos36Problem.lean`)
**Problem**: The axiom `upper_bound` states the Haugland asymptotic upper bound `M(N)/N < 0.380876` **for every** `N ≥ 1`. This is false for small `N` — and the file itself proves `M 1 = 1` (`small_values`, via `native_decide`). Instantiating `upper_bound` at `N = 1` gives `(1:ℝ)/1 < 0.380876`, i.e. `1 < 0.380876`, which is False. The axiom set is therefore inconsistent: `False` is provable in the kernel, making every theorem in this file (and anything importing it) vacuous/unsound.

## Evidence

`upper_bound` (line 96):
```
axiom upper_bound : ∀ N : ℕ, N ≥ 1 → (M N : ℝ) / N < 380876 / 1000000
```
`small_values` (line 162, proven via native_decide on the computable mirror MC):
```
theorem small_values : M 1 = 1 ∧ M 2 = 1 ∧ M 3 = 2 ∧ M 4 = 2 ∧ M 5 = 3
```
The asymptotic upper bound only holds for large N. Concrete values give `M(N)/N` = `1, 0.5, 0.667, 0.5, 0.6` for N=1..5 — all exceed `0.380876`. So `upper_bound` is violated at every one of the computed small values.

**Verified**: the following compiles cleanly against the built module:
```lean
import Mathlib
import Proofs.Erdos36Problem
theorem inconsistent_false : False := by
  have hub := upper_bound 1 (by norm_num)
  have hval : M 1 = 1 := small_values.1
  rw [hval] at hub
  norm_num at hub
#print axioms inconsistent_false
-- 'inconsistent_false' depends on axioms:
--   [propext, upper_bound, Classical.choice, Quot.sound,
--    small_values._native.native_decide.ax_1_1]
```

`white_lower` (`∀ N ≥ 1, M(N)/N > 0.379005`) has the same defect in principle (asymptotic bound asserted for all N≥1); it happens to hold at N=1..5, but it too over-claims and should be threshold-guarded.

## Recommended Fix

Restate the bounds so they only assert what the literature proves — asymptotic / limit statements, not a universal `∀ N ≥ 1` claim:

Option A (threshold-guarded):
```
axiom white_lower  : ∃ N₀, ∀ N ≥ N₀, (M N : ℝ) / N > 379005 / 1000000
axiom upper_bound  : ∃ N₀, ∀ N ≥ N₀, (M N : ℝ) / N < 380876 / 1000000
```
Option B (state bounds directly on the limit `c`, dropping the per-N axioms): axiomatize `c` with `0.379005 < c < 0.380876` alongside `erdos_36_limit_exists`.

Either way, `constant_bounds` will need its proof adjusted to pull the threshold `N₀` and take the max with the convergence threshold. Also update the `assumptions`/originalContributions prose which currently presents these as sound known bounds.

Note: the elementary `trivial_lower_bound` (Part VIII, `M(N)/N > 1/4`, axiom-free pigeonhole) is genuinely correct and unaffected.

---
Discovered during gallery integrity audit. Inconsistency confirmed by compiling `False` against the built module.

**Comment by rjwalters** [comment]
Fix opened in #41146 (docker-verified). Restated `white_lower`/`upper_bound` as asymptotic `∃ N₀, ∀ N ≥ N₀` (the universal upper bound was inconsistent with the proven `M 1 = 1`); `scherk_lower` is now an asymptotic corollary; `erdos_lower_quarter` re-proved axiom-free and uniformly from pigeonhole; `constant_bounds` reworked for the thresholds. Literal axiom count unchanged (3). Please avoid duplicate repair — enricher-2 has this.
